US05459138
Stage C: 2-(5-Methyl-3-nitro-2-pyridyl)isothiourea hydrochloride
A solution of 23 g of 2-chloro-5-methyl-3-nitropyridine and 11.14 g of thiourea in 130 cm3 of ethanol is brought to reflux for 2 hours. After cooling and addition of 20 cm3 of petroleum ether (40°-60° C.), the precipitate obtained is collected on a filter, washed with petroleum ether and dried.

reactant | 2-chloro-5-methyl-3-nitropyridine | 23 g | ClC1=NC=C(C=C1[N+](=O)[O-])C | C6H5ClN2O2
reactant | thiourea | 11.14 g | NC(=S)N | CH4N2S
solvent | ethanol | 130 cm3 | C(C)O | C2H6O
product | 2-(5-Methyl-3-nitro-2-pyridyl)isothiourea hydrochloride | Cl.CC=1C=C(C(=NC1)SC(N)=N)[N+](=O)[O-] | InChI=1S/C7H8N4O2S.ClH/c1-4-2-5(11(12)13)6(10-3-4)14-7(8)9;/h2-3H,1H3,(H3,8,9);1H
